US08877794B2
46.2 Ethyl 2-cyano-2-(3-methoxyphenyl)-3-phenylpropanoate
To a solution of diisopropylamine (7.80 ml, 54.7 mmol) in 100 ml dry tetrahydrofuran at −78° C. was added n-butyl lithium (34.2 ml, 54.7 mmol) and stirred for 1 h while the reaction mixture was allowed to warm up to −40° C. A solution of ethyl 2-cyano-2-(3-methoxyphenyl)acetate (10 g, 45.6 mmol) in 100 ml dry tetrahydrofuran was added and the mixture stirred for 30 min. Then (bromomethyl)benzene (8.13 ml, 68.4 mmol) was added and the reaction was stirred over night. The solvent was evaporated and the residue dissolved in ethyl acetate, which was washed with 10% citric acid, water and brine. The combined organic layers were dried over sodium bicarbonate, filtered and the solvent evaporated to obtain a yellow-orange oil. Purification on 120 g SiO2 using 20% ethyl acetate in cyclohexene afforded a clear colourless oil m=9.4 g (66.6%).

reactant | diisopropylamine | 54.7 mmol, 7.80 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 54.7 mmol, 34.2 ml | C(CCC)[Li]
reactant | ethyl 2-cyano-2-(3-methoxyphenyl)acetate | 45.6 mmol, 10 g | C(#N)C(C(=O)OCC)C1=CC(=CC=C1)OC | C12H13NO3
reactant | (bromomethyl)benzene | 68.4 mmol, 8.13 ml | BrCC1=CC=CC=C1 | C7H7Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 2-cyano-2-(3-methoxyphenyl)-3-phenylpropanoate | C(#N)C(C(=O)OCC)(CC1=CC=CC=C1)C1=CC(=CC=C1)OC | C19H19NO3
